US05994368
The residue including benzyl 2-(2-methyl-3-pyridyl)acetate obtained in Preparation 29-(2) was dissolved in methanol (5 ml), and 10% palladium on carbon was added thereto. The mixture was stirred under hydrogen atmosphere for 3 hours. The reaction mixture was diluted with water and washed with ethyl acetate. The solvent was removed in vacuo to give 2-(2-methyl-3-pyridyl)acetic acid (90 mg).

reactant | benzyl 2-(2-methyl-3-pyridyl)acetate | CC1=NC=CC=C1CC(=O)OCC1=CC=CC=C1 | C15H15NO2
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
solvent | water | O | H2O
product | 2-(2-methyl-3-pyridyl)acetic acid | 90 mg | CC1=NC=CC=C1CC(=O)O | C8H9NO2
